US04916152
To a suspension of (2S,4R)-4-(4-chlorophenyl-sulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine (11.5 g) in dichloromethane (200 ml) were added triethylamine (3.80 ml) and 4-chlorobenzenesulfonyl chloride (5.77 g) under ice bath cooling and the mixture was stirred at room temperature for 1 hour. The solution was washed successively with diluted hydrochloric acid, saturated aqueous sodium bicarbonate and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residual solid was collected by filtration to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine (15.71 g) as a white powder

reactant | (2S,4R)-4-(4-chlorophenyl-sulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine | 11.5 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)\C=C/C1=CC=C(C=C1)C(=O)OC | C20H21ClN2O4S
reactant | triethylamine | 3.80 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 5.77 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine | 15.71 g | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/C1=CC=C(C=C1)C(=O)OC | C26H24Cl2N2O6S2
